US06716851B2
4-(1H-3-Pyrazolyl-amino)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine (75 mg, 0.289 mmol) and 3-amino pyrazole (31 mg, 0.373 mmol) similar to Example 166 and was isolated as a white solid (mp 230° C. decompose, 31 mg, 0.101 mmol, 35%). 1H NMR (DMSO-d6) 9.62 (d, J=1.2 Hz, 1H), 8.77 (m, 3H), 7.71 (s, 1H), 7.62 (dd, J=4.5, 7.5 Hz, 1H), 6.09 (d, J=3 Hz, 1H), 5.89 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.289 mmol, 75 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-amino pyrazole | 0.373 mmol, 31 mg | NC1=NNC=C1 | C3H5N3
product | 4-(1H-3-Pyrazolyl-amino)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | N1N=C(C=C1)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C13H9F3N6
